US05298660
8.5 g (0.0283 mole) of (R)-(-)-N-(2-hydroxy-3-methoxybenzylidene)-1-(p-nitrophenyl)ethylamine were dissolved in 150 ml of ethyl alcohol. Then, 0.54 g (0.0143 mole) of sodium borohydride was added at room temperature to the reaction mixture, which was thereafter stirred at a temperature of from 30° to 35° C. for 2 hours, and then stirred at a temperature of from 55° to 60° C. for 2 hours. After the completion of the reaction, the reaction mixture was admixed with 30 ml of a 10% hydrochloric acid, and then concentrated under reduced pressure. The resulting residue was dissolved in 150 ml of water, washed with 100 ml of toluene, and separated into individual layers. The aqueous layer was neutralized or weakly alkalized with a 20% aqueous sodium hydroxide solution, and extracted twice with 100 ml of toluene. The toluene layer was washed with water, and concentrated under reduced pressure to give 7.75 g of (R)-(+)-N-(2-hydroxy- 3-methoxybenzyl)-1-(p-nitrophenyl)ethylamine as crystalline substance. Yield: 90.6%.

reactant | (R)-(-)-N-(2-hydroxy-3-methoxybenzylidene)-1-(p-nitrophenyl)ethylamine | 0.0283 mole, 8.5 g | OC1=C(C=N[C@H](C)C2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1OC | C16H16N2O4
reactant | sodium borohydride | 0.0143 mole, 0.54 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
product | (R)-(+)-N-(2-hydroxy- 3-methoxybenzyl)-1-(p-nitrophenyl)ethylamine | 7.75 g, Yield: 90.6% | OC1=C(CN[C@H](C)C2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1OC | C16H18N2O4
